US08124766B2
With a procedure similar to the example above, 7-fluoro-3-methyl-benzofuran-2-carboxylic acid {6-[(2-methoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide was prepared from 7-fluoro-3-methyl-benzofuran-2-carboxylic acid and N2-(2-methoxy-ethyl)-N2-methyl-pyridine-2,5-diamine. LCMS calcd for C19H20FN3O3 (m/e) 357, obsd 358 (M+H).

reactant | 7-fluoro-3-methyl-benzofuran-2-carboxylic acid | FC1=CC=CC=2C(=C(OC21)C(=O)O)C | C10H7FO3
reactant | N2-(2-methoxy-ethyl)-N2-methyl-pyridine-2,5-diamine | COCCN(C1=NC=C(C=C1)N)C | C9H15N3O
product | 7-fluoro-3-methyl-benzofuran-2-carboxylic acid {6-[(2-methoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide | COCCN(C1=CC=C(C=N1)NC(=O)C=1OC2=C(C1C)C=CC=C2F)C | C19H20FN3O3
